US08247429B2
methyl 5-bromo-2,3-dimethyl-2H-indazole-4-carboxylate
To a solution of diisopropylamine (1.38 mL, 9.73 mmol) in tetrahydrofuran (25 mL) was added 1.6M butyllithium/hexane solution (5.62 mL, 8.99 mmol) at −78° C., and the mixture was stirred for 30 min. A solution of methyl 5-bromo-2-methyl-2H-indazole-4-carboxylate (2.00 g, 7.49 mmol) in tetrahydrofuran (50 mL) was added and, after stirring for 30 min, iodomethane (933 μL, 15.0 mmol) was added. After stirring for 30 min, the reaction solution was diluted with saturated aqueous ammonium chloride solution. The solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→50/50) to give the title compound (1.10 g, yield 52%).

reactant | diisopropylamine | 9.73 mmol, 1.38 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium hexane | 8.99 mmol, 1.6M, 5.62 mL | C(CCC)[Li].CCCCCC
reactant | methyl 5-bromo-2-methyl-2H-indazole-4-carboxylate | 7.49 mmol, 2.00 g | BrC1=C(C2=CN(N=C2C=C1)C)C(=O)OC | C10H9BrN2O2
reactant | iodomethane | 15.0 mmol, 933 μL | IC | CH3I
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | methyl 5-bromo-2,3-dimethyl-2H-indazole-4-carboxylate | 1.10 g, yield 52% | BrC1=C(C2=C(N(N=C2C=C1)C)C)C(=O)OC | C11H11BrN2O2
